US09388180B2
8-Bromo-5,6-dimethyl-3-thia-1,4,7,8a-tetraaza-as-indacene
5,6-dimethyl-3-thia-1,4,7,8a-tetraaza-as-indacene (300 mg, 1.469 mmol) was dissolved in acetonitrile (50 ml) and 1-bromopyrrolidine-2,5-dione (131 mg, 0.734 mmol) was added. The resulting mixture was stirred at about 20° C. for about 1 h. After removal of the solvent under reduced pressure, the crude product was purified by prep-HPLC to give 60 mg of the title compound (yield: 15%).

reactant | 5,6-dimethyl-3-thia-1,4,7,8a-tetraaza-as-indacene | 1.469 mmol, 300 mg | CC1=NC=2SC=NC2N2C=NC(=C12)C | C9H8N4S
reactant | 1-bromopyrrolidine-2,5-dione | 0.734 mmol, 131 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 8-Bromo-5,6-dimethyl-3-thia-1,4,7,8a-tetraaza-as-indacene | 60 mg, yield: 15% | BrC1=NC(=C2C(=NC=3SC=NC3N12)C)C | C9H7BrN4S
